US07566699B2
4-Hydroxy-3-(2-phenylethyl)indole
To a solution of 4-benzyloxy-3-[(E)-2-phenylvinyl]indole (0.1 g) in ethanol (5 mL) was added 10% palladium-carbon powder (25 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere overnight. The insoluble material was removed by filtration. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography on aminopropylated silica gel (eluent: n-hexane/ethyl acetate=3/1) to give the title compound (70 mg).

reactant | 4-benzyloxy-3-[(E)-2-phenylvinyl]indole | 0.1 g | C(C1=CC=CC=C1)OC1=C2C(=CNC2=CC=C1)\C=C\C1=CC=CC=C1 | C23H19NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 25 mg | [C].[Pd]
product | 4-Hydroxy-3-(2-phenylethyl)indole | 70 mg | OC1=C2C(=CNC2=CC=C1)CCC1=CC=CC=C1 | C16H15NO
